US05312914
(R)-2-(4-nitrobenzenesulphonyloxy)-3-methoxycarbonyl-2-penten-4-olide
34.44 g of (R)-2-hydroxy-3-methoxycarbonyl-2-penten-4-olide are dissolved in 170 ml of toluene at 40° C., 49.4 g of p-nitrobenzenesulphonyl chloride in 160 ml of toluene are added and the whole is cooled to 5° C. Within a period of 30 minutes, 20.3 g of N-methylmorpholine are metered in at from 0°to 5° C. 350 ml of water are added, the toluene product phase is removed, and the aqueous phase is re-extracted twice with 100 ml of toluene. The toluene phases are washed with sodium chloride solution and with water, filtered over a small amount of silica gel and concentrated by evaporation. The residue is crystallised from ethyl acetate/cyclohexane. [α]D20 =+12.4° (3% in CHCl3), m.p. 123°-124° C.

reactant | (R)-2-hydroxy-3-methoxycarbonyl-2-penten-4-olide | 34.44 g | OC=1C(=O)O[C@@H](C1C(=O)OC)C | C7H8O5
reactant | p-nitrobenzenesulphonyl chloride | 49.4 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-methylmorpholine | 20.3 g | CN1CCOCC1 | C5H11NO
reactant | water | 350 ml | O | H2O
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(4-nitrobenzenesulphonyloxy)-3-methoxycarbonyl-2-penten-4-olide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC=1C(=O)O[C@@H](C1C(=O)OC)C | C13H11NO9S
